US07700625B2
(2,4-Dihydroxy-5-isopropyl-phenyl)-[4-(3-morpholin-4-yl-propoxy)-1,3-dihydro-isoindol-2-yl]methanone
A solution of (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-[4-(3-morpholin-4-yl-propoxy)-1,3-dihydro-isoindol-2-yl]-methanone in methanol (5 mL) was hydrogenated at atmospheric pressure over 10% palladium on charcoal (45 mg) for 4 hours. The mixture was filtered through Celite, eluting with methanol, then the filtrate was concentrated in vacuo to give a residue which was purified by preparative HPLC (basic method). This afforded the title compound as a white solid (16 mg, 6% over two steps). 1H NMR (methanol-d4) 7.24 (1H, t), 7.18 (1H, s), 6.89 (1H, d), 6.84 (1H, d), 6.37 (1H, s), 4.87 (2H, br.s), 4.78 (2H, br.s), 4.11-4.04 (2H, m), 3.72-3.66 (4H, m), 3.21 (1H, sept), 2.60-2.42 (6H, m), 2.05-1.92 (2H, m), 1.21 (6H, d). MS: [M+H]+ 441.

reactant | (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-[4-(3-morpholin-4-yl-propoxy)-1,3-dihydro-isoindol-2-yl]-methanone | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C)C(=O)N1CC2=CC=CC(=C2C1)OCCCN1CCOCC1 | C39H42N2O5
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on charcoal | 45 mg | [Pd] | Pd
product | (2,4-Dihydroxy-5-isopropyl-phenyl)-[4-(3-morpholin-4-yl-propoxy)-1,3-dihydro-isoindol-2-yl]methanone | 16 mg, 6% | OC1=C(C=C(C(=C1)O)C(C)C)C(=O)N1CC2=CC=CC(=C2C1)OCCCN1CCOCC1 | C25H32N2O5
